US08193228B2
1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (458 mg, 0.56 mmol) was added to a degassed, ambient temperature solution of 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-2-ol, sodium carbonate (2.4 g, 22.5 mmol) and 2-bromo-5-fluoropyridine (3.0 g, 16.8 mmol) in N,N-dimethylformamide/water (4:1) (150 mL). After stirring at 90° C. for 2 h, the reaction mixture was poured into water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol.

reactant | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C42H46BF3N2O3
reactant | sodium carbonate | 22.5 mmol, 2.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromo-5-fluoropyridine | 16.8 mmol, 3.0 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | water | O | H2O
solvent | N,N-dimethylformamide water | 150 mL | CN(C=O)C.O
product | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1,1-trifluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]propan-2-ol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)(F)F)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C | C41H37F4N3O
